US06093345
Step 2: t-Butyl (S)-5-benzyloxy-3-oxononanoate (compound (39), R1 =n-butyl)
A solution of 48.7 g of t-butyl acetate in 50 ml of dried THF was then added dropwise to the solution from a dropping funnel at the same temperature over 30 minutes, followed by stirring for 45 minutes. The resulting reaction mixture was further cooled to -50° C., and a solution of 45.4 g of methyl (S)-3-benzyloxyheptanoate in 50 ml of dried THF was added thereto over 30 minutes, followed by stirring for 2 hours while maintaining at that temperature. The reaction mixture was poured into a saturated ammonium chloride aqueous solution and extracted with diethyl ether. The extract was washed with a sodium chloride aqueous solution, and the solvent was removed by distillation under reduced pressure to obtain 67 g of a crude product, which was then purified by silica gel column chromatography to obtain 36 g (53.3%) of the titled compound.

reactant | t-butyl acetate | 48.7 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | methyl (S)-3-benzyloxyheptanoate | 45.4 g | C(C1=CC=CC=C1)O[C@H](CC(=O)OC)CCCC | C15H22O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | t-Butyl (S)-5-benzyloxy-3-oxononanoate | 36 g, 53.3% | C(C1=CC=CC=C1)O[C@H](CC(CC(=O)OC(C)(C)C)=O)CCCC | C20H30O4
